US06608203B2
1-(4-Benzyloxyphenyl)-6-methoxy-3,4-dihydroisoquinoline hydrochloride
Phosphorus pentachloride (58.557 g, 281.2 mmol) was added in portions to a solution of 4-benzyloxy-N-[2-(3-methoxyphenyl)ethyl]benzamide (59.775 g, 165.4 mmol) in 1,2-dichloroethane (500 ml) at 0° C. under N2. The resulting reaction was stirred at 0° C. for 30 min, then refluxed for 18 hr. After cooling to rt, hexane (1200 ml) was added and the resulting suspension was cooled to 0° C. The solvent was decanted off from the oil that separated and the remaining oil was dried in vacuo to give 54.56 g (87% yield) of orange residue.

reactant | Phosphorus pentachloride | 281.2 mmol, 58.557 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 4-benzyloxy-N-[2-(3-methoxyphenyl)ethyl]benzamide | 165.4 mmol, 59.775 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)NCCC2=CC(=CC=C2)OC)C=C1 | C23H23NO3
reactant | hexane | 1200 ml | CCCCCC | C6H14
solvent | 1,2-dichloroethane | 500 ml | ClCCCl | C2H4Cl2
product | 1-(4-Benzyloxyphenyl)-6-methoxy-3,4-dihydroisoquinoline hydrochloride | 54.56 g, 87% yield | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NCCC2=CC(=CC=C12)OC | InChI=1S/C23H21NO2.ClH/c1-25-21-11-12-22-19(15-21)13-14-24-23(22)18-7-9-20(10-8-18)26-16-17-5-3-2-4-6-17;/h2-12,15H,13-14,16H2,1H3;1H
